US06552036B2
A mixture of 22 g (0.048 mole) of ethyl 4-[(8-phenethyl-8-azabicyclo[3.2.1]oct-3-ylidene)phenylmethyl]benzoate, 86 mL of 3N NaOH and 200 mL of EtOH was refluxed for 1 h. After cooling the mixture was made acidic with conc. HCl. The solvent was decanted away from the gum which formed. The gum was titurated with Et2O and Et2O/HCl and was placed into a drying oven overnight at 45° C. to yield 19.2 g of 4-[(8-phenethyl-8-azabicyclo[3.2.1]oct-3-ylidene)phenylmethyl]benzoic acid; mp. 285-290° C. MS m/z (MH+) 425. 1H NMR δ 7.9 (d, 2H); 7.4-7.2 (ar, 12H); 3.7 (bs, 2H); 3.0 (bs, 4H); 2.8 (bd, 2H); 2.2 (t, 2H); 2.0 (m, 2H); 1.65 (m, 2H).

reactant | ethyl 4-[(8-phenethyl-8-azabicyclo[3.2.1]oct-3-ylidene)phenylmethyl]benzoate | 0.048 mole, 22 g | C(CC1=CC=CC=C1)N1C2CC(CC1CC2)=C(C2=CC=C(C(=O)OCC)C=C2)C2=CC=CC=C2 | C31H33NO2
reactant | NaOH | 3N, 86 mL | [OH-].[Na+]
reactant | HCl | Cl | ClH
reactant | Et2O HCl | CCOCC.Cl
solvent | Et2O | CCOCC | C4H10O
solvent | EtOH | 200 mL | CCO | C2H6O
product | 4-[(8-phenethyl-8-azabicyclo[3.2.1]oct-3-ylidene)phenylmethyl]benzoic acid | 19.2 g | C(CC1=CC=CC=C1)N1C2CC(CC1CC2)=C(C2=CC=C(C(=O)O)C=C2)C2=CC=CC=C2 | C29H29NO2
